US06472413B2
a) 2,2,2-Trifluoro-N-(2-(4-methoxyphenyl)ethyl)acetamide
32.2 ml (0.23 mol) of trifluoroacetic acid were added dropwise to a solution of 22.3 ml (0.15 mol) of 2-(4-methoxyphenyl)ethylamine and 24.7 ml (0.23 mol) of pyridine in 125 ml of absolute THF cooled to 5° C., and the resulting solution was stirred at RT for 3 h. The reaction solution was then poured onto 750 ml of ice, and the deposited precipitate was filtered off with suction and dried at 40° C. in a high vacuum. 36.3 g of the title compound were obtained as a beige solid.

reactant | trifluoroacetic acid | 0.23 mol, 32.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(4-methoxyphenyl)ethylamine | 0.15 mol, 22.3 ml | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | pyridine | 0.23 mol, 24.7 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | 2,2,2-Trifluoro-N-(2-(4-methoxyphenyl)ethyl)acetamide | 36.3 g | FC(C(=O)NCCC1=CC=C(C=C1)OC)(F)F | C11H12F3NO2
